US05376634
A solution of 4-octyloxyphenylglyoxylic acid (0.935 g) in a mixture of water (9 ml) and tetrahydrofuran (18 ml) and adjusted to pH 3.5-4 with 1N hydrochloric acid and methoxyamine hydrochloride (0.337 g) was added thereto at room temperature. The mixture was stirred for 2 hours at room temperature maintaining pH 3.5~4 with 1N hydrochloric acid. The reaction mixture was added to ethyl acetate. The organic layer was separated and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 2-(4-octyloxyphenyl)-2-methoxyiminoacetic acid (0.57 g).

reactant | 4-octyloxyphenylglyoxylic acid | 0.935 g | C(CCCCCCC)OC1=CC=C(C=C1)C(C(=O)O)=O | C16H22O4
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | methoxyamine hydrochloride | 0.337 g | Cl.CON
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 9 ml | O | H2O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | 2-(4-octyloxyphenyl)-2-methoxyiminoacetic acid | 0.57 g | C(CCCCCCC)OC1=CC=C(C=C1)C(C(=O)O)=NOC | C17H25NO4
